US07288541B2
To 154 mg (0.31 mmol) of N-[(2S,3S)-3-amino-2-hydroxyheptyl]-2-pyridinesulfonamide hydrochloride & N-[(2R,3S)-3-amino-2-hydroxyheptyl]-2-pyridinesulfonamide in 3 mL of dimethylformamide, 132 mg (0.31 mmol) of (1S)-1-{[4-(1H-imidazol-1-yl)phenoxy]methyl}-2,2-dimethylpropyl 4-nitrophenyl carbonate was added, followed by 0.25 mL (1.43 mmol) of N,N-diisopropylethylamine. The reaction mixture was stirred for 18 h at room temperature. It was concentrated, a saturated sodium bicarbonate solution was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered, and concentrated. The residue was purified by silica gel column chromatography eluting with an methanol:chloroform solution (1:9) to yield 101.3 mg (57%) of (1S)-1-{[4-(1H-imidazol-1-yl)phenoxy]methyl}-2,2-dimethylpropyl (1S)-1-{(1S)-1-hydroxy-2-[(2-pyridinylsulfonyl)amino]ethyl}pentylcarbamate and (1S)-1-{[4-(1H-imidazol-1-yl)phenoxy]methyl}-2,2-dimethylpropyl (1S)-1-{(1R)-1-hydroxy-2-[(2-pyridinylsulfonyl)amino]ethyl}pentylcarbamate. ES-LCMS m/z 574 (M+H) Rt=2.7 min.

reactant | N-[(2S,3S)-3-amino-2-hydroxyheptyl]-2-pyridinesulfonamide hydrochloride | 0.31 mmol, 154 mg | Cl.N[C@H]([C@H](CNS(=O)(=O)C1=NC=CC=C1)O)CCCC
reactant | N-[(2R,3S)-3-amino-2-hydroxyheptyl]-2-pyridinesulfonamide | N[C@H]([C@@H](CNS(=O)(=O)C1=NC=CC=C1)O)CCCC | C12H21N3O3S
reactant | (1S)-1-{[4-(1H-imidazol-1-yl)phenoxy]methyl}-2,2-dimethylpropyl 4-nitrophenyl carbonate | 0.31 mmol, 132 mg | C(O[C@@H](C(C)(C)C)COC1=CC=C(C=C1)N1C=NC=C1)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C22H23N3O6
reactant | N,N-diisopropylethylamine | 1.43 mmol, 0.25 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | (1S)-1-{[4-(1H-imidazol-1-yl)phenoxy]methyl}-2,2-dimethylpropyl (1S)-1-{(1S)-1-hydroxy-2-[(2-pyridinylsulfonyl)amino]ethyl}pentylcarbamate | 101.3 mg, 57% | O[C@@H](CNS(=O)(=O)C1=NC=CC=C1)[C@H](CCCC)NC(O[C@@H](C(C)(C)C)COC1=CC=C(C=C1)N1C=NC=C1)=O | C28H39N5O6S
